US07718621B2
a) [2-(2-Hydroxy-ethoxy)-ethyl]-carbamic acid tert-butyl ester
To a solution of 2-(2-amino-ethoxy)-ethanol (5.00 g) in water (35 mL) at 0° C. potassium hydroxide (2.93 g) was added. To this mixture maintained at 0° C., a solution of di-tert-butyldicarbonate (11.40 g) in dioxane (17 mL) was added dropwise. The resulting mixture was stirred at 0° C. for 1 h and then 4 h at room temperature. Dioxane was evaporated under reduced pressure and the aqueous solution was extracted with DCM (2×25 mL). The organic phase was dried and evaporated under reduced pressure. The residue was purified by flash chromatography (silica gel, EtOAc/petroleum ether 40/60 to 60/40) to give the title compound (8.50 g); ESMS m/z 205.3 [M+H]+.

reactant | 2-(2-amino-ethoxy)-ethanol | 5.00 g | NCCOCCO | C4H11NO2
reactant | potassium hydroxide | 2.93 g | [OH-].[K+]
reactant | di-tert-butyldicarbonate | 11.40 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 35 mL | O | H2O
solvent | dioxane | 17 mL | O1CCOCC1 | C4H8O2
product | [2-(2-Hydroxy-ethoxy)-ethyl]-carbamic acid tert-butyl ester | 8.50 g | C(C)(C)(C)OC(NCCOCCO)=O | C9H19NO4
